* Extracted by KLayout with SG13G2 LVS runset on : 13/03/2026 19:25

.SUBCKT inv1
M$1 VSS in out \$1 sg13_hv_nmos L=0.5u W=4u AS=1.36p AD=1.36p PS=8.68u PD=8.68u
M$2 VDD in out \$7 sg13_hv_pmos L=0.5u W=4u AS=1.36p AD=1.36p PS=8.68u PD=8.68u
R$3 \$7 VDD ntap1 A=2.75p P=7.5u
R$4 \$1 VSS ptap1 A=2.75p P=7.5u
.ENDS inv1
